2146-01-23 07:02:00 Physician Resident Progress Note
Chief Complaint: Abdominal pain, jaundice
   24 Hour Events:
   No events overnight.
   --Patient transferred here from [**Hospital 2491**] Hospital for possible
   cholangitis and ERCP.
   --Continues to have abdominal pain, rising bilirubin.  Still has not
   passed flatus or had bowel movement.  Going for CT abdomen this
   morning.
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Piperacillin - [**2146-1-23**] 01:11 AM
   Ampicillin - [**2146-1-23**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-1-23**] 12:00 AM
   Labetalol - [**2146-1-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-23**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 87 (79 - 109) bpm
   BP: 167/79(99) {165/79(97) - 204/99(119)} mmHg
   RR: 40 (20 - 45) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (15 - 15)mmHg
   Total In:
                                                                    587 mL
   PO:
   TF:
   IVF:
                                                                    587 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    450 mL
   Urine:
                                                                    900 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -900 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   115 K/uL
   13.0 g/dL
   116 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   11 mg/dL
   100 mEq/L
   135 mEq/L
   38.4 %
   16.3 K/uL
        [image002.jpg]
                            [**2146-1-22**]  09:38 PM
                            [**2146-1-23**]  04:19 AM
   WBC
   15.8
   16.3
   Hct
   38.6
   38.4
   Plt
   108
   115
   Cr
   0.7
   0.7
   Glucose
   110
   116
   Other labs: PT / PTT / INR:17.8/24.7/1.6, ALT / AST:208/95, Alk Phos /
   T Bili:70/13.0, Amylase / Lipase:118/84, Differential-Neuts:84.0 %,
   Band:4.0 %, Lymph:1.0 %, Mono:7.0 %, Eos:0.0 %, Albumin:2.7 g/dL,
   LDH:806 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Microbiology: Blood cultures x2 pending
   Assessment and Plan
   This is a 28-year-old gentleman with recent lap chole for gallstone
   pancreatitis, now admitted with likely cholangitis
   # Abdominal pain and abnormal LFTs:  Most likely ascending cholangitis
   from biliary obstruction.  Other causes include surgical trauma (i.e.
   nicked CBD) from recent surgery, necrotizing pancreatitis, alcoholic
   pancreatitis (though patient denies excessive drinking), malignancy
   (recent 40 pound weight loss), or hypertriglyceridemia.  Most likely
   cause is cholangitis in setting of residual stone however, a normal
   intraoperative cholangiogram makes this diagnosis somewhat atypical.
   (Patient has signs of Charcot
s Triad, but not [**Last Name (un) 4043**]
s Pentad).
   - CT abdomen and pelvis today
   - appreciate surgical input; will touch base once patient has CT
   - ERCP aware of patient and will likely take patient today
   - monitor urine output and blood pressure
   - continue unasyn started at OSH; if patient deteriorates, would
   consider covering resistant enterococci
   - treat pain with dilaudid PCA (no basal for now as patient got
   delirious on high doses of dilaudid at OSH)
   - f/u Cx here and at [**Last Name (un) 2491**]
   # Ileus:
   Possible causes include pancreatitis, gallstone ileus, hypokalemia,
   obstruction, or post-operative ileus.  He has only vomited once since
   admission, and abdominal exam is not concerning.
   - Continue bowel regimen
   - Replete lytes
   - monitor abdominal exam
   - NPO
   - appreciate surgical input
   # Tachypnea:
   Likely due to abdominal discomfort.  Also has restrictive lung disease
   from his obesity.  Pain may also be a contributor.
   - Pain control as above
   - Encourage adequate and deep respirations
   # Hypertension:
   Most likely multifactorial from volume overload, pain, and underlying
   hypertension.  (Patient was actually told that he had high BP some
   years ago, but was able to manage BP with diet and weight loss)
   - Labetalol to SBP > 180.  Will initiate more aggressive control after
   other acute issues have resolved.
   # Thrombocytopenia:
   Stable since admission.  [**Month (only) 8**] be due to acute illness, med side effect,
   or low baseline.
   - monitor
   # Coagulopathy:
   Likely due to vitamin K deficiency from poor nutrition and recent
   antibiotics.
   - vitamin K IV x 1 and recheck coags
   # Leukocytosis and fevers:  White count continues to rise, raising
   suspicion of intrabdominal infection.
   - Continue antibiotics
   - Continue to monitor WBC and fever curve
   - ERCP today to target underlying source of infection
   # FEN:  NPO with IVF as needed for low Uop or low CVP
   # PPX:
   -DVT ppx with subQ heparin
   -Bowel regimen
   -Pain management with dilaudid PCA
   # ACCESS: PIV's and subclavian (placed at OSH)
   # CODE STATUS:  Confirmed FULL
   # EMERGENCY CONTACT:  wife [**Name (NI) 183**] [**Telephone/Fax (1) 10699**]
   # DISPOSITION:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-22**] 08:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2146-01-23 08:58:00 Physician Attending Progress Note
Chief Complaint: abdominal pain, abnormal LFT's
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo healthy male at OSH for gallstone pancreatitis s/p lap choley
   [**1-19**] with post op persistent pain and hyperbilirubinemia, also
   hypertensive- on unasyn and transferred for consideration of ERCP
   Initial considerations: stones, ileus (post op vs pancreatitis vs
   narcotic induced)
   24 Hour Events:
 MULTI LUMEN - START [**2146-1-22**] 08:43 PM
   CT abdomen
   Labetol for high BP's
   Dilaudid PCA
   Surgery consult: agreed with ERCP, no other recommendations for now
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Piperacillin - [**2146-1-23**] 01:11 AM
   Ampicillin - [**2146-1-23**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-1-23**] 12:00 AM
   Labetalol - [**2146-1-23**] 07:04 AM
   Other medications:
   protonix, prn zofran, tylenol, dilaudid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Nausea, belching
   Flowsheet Data as of  [**2146-1-23**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 84 (78 - 109) bpm
   BP: 193/91(110) {161/79(97) - 204/99(119)} mmHg
   RR: 34 (20 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 15 (15 - 15)mmHg
   Total In:
                                                                    770 mL
   PO:
   TF:
   IVF:
                                                                    770 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                  1,000 mL
   Urine:
                                                                    900 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -900 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic),
   tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), quick shallow breathing
   Abdominal: Soft
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   13.0 g/dL
   115 K/uL
   116 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   11 mg/dL
   100 mEq/L
   135 mEq/L
   38.4 %
   16.3 K/uL (peak 23)
        [image002.jpg]
                            [**2146-1-22**]  09:38 PM
                            [**2146-1-23**]  04:19 AM
   WBC
   15.8
   16.3
   Hct
   38.6
   38.4
   Plt
   108
   115
   Cr
   0.7
   0.7
   Glucose
   110
   116
   Other labs: PT / PTT / INR:17.8/24.7/1.6, ALT / AST:208/95, Alk Phos /
   T Bili:70/13.0, Amylase / Lipase:118/84, Differential-Neuts:84.0 %,
   Band:4.0 %, Lymph:1.0 %, Mono:7.0 %, Eos:0.0 %, Albumin:2.7 g/dL,
   LDH:806 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: OSH US: cholecystitis
   Microbiology: Bd cultures 12/23 and [**1-21**] NGTD
   Assessment and Plan
 CHOLANGITIS
 HYPERTENSION, BENIGN
 .H/O OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 PANCREATITIS, ACUTE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   28 yo male admitted with gallstone pancreatitis with persistent
   abdominal pain and hyperbilirubinemia s/p lap choly- concerns are for
   continued stones, ileus. CT abd shows pancreatitis, official read
   pending.
   1. F/[**Location 134**] read of CT. On Unasyn, f/u blood cultures
   2. Discuss timing of ERCP with consult services- complicating factor is
   that oral contrast needs to have passed through his stomach before
   procedure, but continued ileus may delay further emptying
   3. Bowel rest, convert meds to IV
   4. Tachypnea appears secondary to pain/illness- continue pain control
   5. Has history of hypertension previously managed by diet/exercise,
   certainly exacerabted by pain/illness- continue pain control
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-1-22**] 08:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2146-01-24 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: diarrhea 6x overnight, had similar amount the night
   prior, no ab pain, no N/V, no fevers/chills.
   24 Hour Events:
 PICC LINE - START [**2146-1-23**] 11:46 AM
   right basilic
 URINE CULTURE - At [**2146-1-23**] 01:09 PM
 MULTI LUMEN - STOP [**2146-1-24**] 03:00 AM
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2146-1-23**] 11:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-1-23**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2146-1-23**] 04:31 PM
   Labetalol - [**2146-1-24**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-1-24**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.8
   HR: 68 (68 - 106) bpm
   BP: 169/88(106) {140/70(91) - 195/109(124)} mmHg
   RR: 36 (25 - 45) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 13 (12 - 14)mmHg
   Total In:
                                                                  1,807 mL
                                                                    437 mL
   PO:
   TF:
   IVF:
                                                                  1,680 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                      0 mL
   Urine:
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -893 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General:  NAD  Jaundiced.
   Chest:  decreased breath sounds at bases, crackles and bronchial sounds
   at L mid-lung fields
   Abdomen:  Obese, tender, no rebound, negative [**Doctor Last Name **]
s sign, distant
   and scarce bowel sounds
   Extremeties:  No edema
   Labs / Radiology
   139 K/uL
   12.7 g/dL
   158 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   38.8 %
   21.6 K/uL
        [image002.jpg]
                            [**2146-1-22**]  09:38 PM
                            [**2146-1-23**]  04:19 AM
                            [**2146-1-24**]  03:00 AM
   WBC
   15.8
   16.3
   21.6
   Hct
   38.6
   38.4
   38.8
   Plt
   108
   115
   139
   Cr
   0.7
   0.7
   0.7
   Glucose
   110
   116
   158
   Other labs: PT / PTT / INR:16.0/28.4/1.4, ALT / AST:162/62, Alk Phos /
   T Bili:74/7.7, Amylase / Lipase:113/73, Differential-Neuts:80.0 %,
   Band:5.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Albumin:2.7 g/dL,
   LDH:780 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 28-year-old gentleman with recent lap chole for gallstone
   pancreatitis, now admitted with likely cholangitis
   # Abdominal pain and abnormal LFTs:  CT shows necrotizing pancreatitis
   without pseudocyst or SBO, as well as intra and extra hepatic ductal
   dilation. Surgery team still concerned that CBD was nicked during lap
   chole. ERCP team rec conservative treatment until acute inflammation
   subsides. WBC continues to rise daily. Blood cx neg.
   - continue zosyn
   - treat pain with dilaudid PCA (no basal for now as patient got
   delirious on high doses of dilaudid at OSH)
   - f/u Cx here and at [**Last Name (un) 2491**]
   - C. dif
   # Ileus: No SBO on CT. Now having diarrhea
   - Replete lytes
   - monitor abdominal exam
   - NPO, TPN
   - appreciate surgical input
   # Tachypnea:
   Likely due to abdominal discomfort (patient doesn
t want to expand
   lungs fully) and pain. CXR clear. Spitting up small amounts whitish
   blood tingled sputum.
   - spuum cx
   - Encourage adequate and deep respirations, IS
   - Pain control as above
   # Hypertension:
   Most likely multifactorial from volume overload, pain, and underlying
   hypertension.  (Patient was actually told that he had high BP some
   years ago, but was able to manage BP with diet and weight loss).
   - attempt PO labetalol
   - IV hydral prn
   # Thrombocytopenia:
   Stable since admission.  [**Month (only) 8**] be due to acute illness, med side effect,
   or low baseline.
   - monitor
   # Coagulopathy:
   Likely due to vitamin K deficiency from poor nutrition and recent
   antibiotics.
   - vitamin K IV x 1 and recheck coags
   ICU Care
   Nutrition:
   TPN without Lipids - [**2146-1-23**] 09:00 PM 42.[**Telephone/Fax (5) 10719**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-1-23**] 11:46 AM
   Prophylaxis:
   DVT: SCH
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: patient and wife
   [**Name (NI) 156**] status: Full code
   Disposition:

2146-01-24 11:38:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2146-1-23**] 11:46 AM
   right basilic
 URINE CULTURE - At [**2146-1-23**] 01:09 PM
 MULTI LUMEN - STOP [**2146-1-24**] 03:00 AM
   Allergies:
   Morphine
   hot
   sweating
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2146-1-23**] 11:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-1-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Labetalol - [**2146-1-24**] 06:08 AM
   Heparin Sodium (Prophylaxis) - [**2146-1-24**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2146-1-24**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 67 (67 - 106) bpm
   BP: 162/84(103) {140/69(90) - 195/109(124)} mmHg
   RR: 32 (25 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 13 (12 - 13)mmHg
   Total In:
                                                                  1,807 mL
                                                                    688 mL
   PO:
   TF:
   IVF:
                                                                  1,680 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                      0 mL
   Urine:
                                                                  2,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -893 mL
                                                                    688 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   139 K/uL
   158 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   38.8 %
   21.6 K/uL
        [image002.jpg]
                            [**2146-1-22**]  09:38 PM
                            [**2146-1-23**]  04:19 AM
                            [**2146-1-24**]  03:00 AM
   WBC
   15.8
   16.3
   21.6
   Hct
   38.6
   38.4
   38.8
   Plt
   108
   115
   139
   Cr
   0.7
   0.7
   0.7
   Glucose
   110
   116
   158
   Other labs: PT / PTT / INR:16.0/28.4/1.4, ALT / AST:162/62, Alk Phos /
   T Bili:74/7.7, Amylase / Lipase:113/73, Differential-Neuts:80.0 %,
   Band:5.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Albumin:2.7 g/dL,
   LDH:780 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: CT Abdomen--no SBO, significant and diffuse edema in pancreas,
   no cyst formation
   Assessment and Plan
   28 yo male s/p lab CCY with post operative course complicated by
   persistent fever, sepsis felt to be secondary to possible pancreatitis
   or CBD insult.  He has had improvement in fever but with persistent WBC
   count elevation and T. Bili elevation with amylase/lipase only mildly
   elevated at this time but CT showing significant destructive
   pancreatitis with concern for necrosis and significant insult present.
   1) Pancreatitis-With necrosis seen on CT scan per radiology report and
   with diffuse insult seen with edema upon review
   -Would continue empiric broad spectrum antibiotics with Imipenem
   reasonable when coverage narrowed based upon culture results.
   -We do see intra and extrahepatic ductal dilitation which may be
   related to pancreatic head changes in the setting of signficiant edema
   -We do see some significant improvement in patients subjective pain
   improving
   -Will continue with TPN and NPO status
   -Dilaudid PCA in place
   -Blood cultures negative at outset and now
   -Will send C. Diff to be complete
   2)S/P Cholecystectomy-
   -Will send sputum
   -Will need incentive spirometry
   -Will get patient OOB as possible today
   -We do have question raised as to possible biliarly system leak and in
   the setting of improving abdominal exam would favor continued
   supportive care at this time but will continue to consult with ERCP for
   timing of any intervention.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2146-1-23**] 09:00 PM 42.[**Telephone/Fax (5) 10719**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-1-23**] 11:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes